US04923984
To a solution of 33.11 g (195.21 mM) of 2'-amino-2-chloroacetophenone in 680 ml of CH3CN is added 87.8 g (585.63 mM) of NaI, and the mixture is stirred at room temperature for 45 minutes and concentrated under reduced pressure. The residue is dissolved in ethyl acetate, and the organic layer is washed with aqueous Na2S2O3, and brine in order, dried and concentrated to give 46.1 g (Yield: 90.5%) of 2'-amino-2-iodoacetophenone as crystals.

reactant | 2'-amino-2-chloroacetophenone | 195.21 mM, 33.11 g | NC1=C(C=CC=C1)C(CCl)=O | C8H8ClNO
reactant | NaI | 585.63 mM, 87.8 g | [Na+].[I-]
solvent | CH3CN | 680 ml | CC#N | C2H3N
product | 2'-amino-2-iodoacetophenone | 46.1 g, Yield: 90.5% | NC1=C(C=CC=C1)C(CI)=O | C8H8INO
